US07713969B2
Magnesium turnings (195 mg, 8.0 mmol) were added to a solution of 7-[4-(1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3-yl]-3,4-dihydro-1H-[1,4]diazepino[6,7,1-hi]indole-2-carboxylic acid benzyl ester (230 mg, 0.44 mmol) in anhydrous methanol (20 ml) and heated to reflux under an atmosphere of nitrogen for 1.5 hours. After cooling to room temperature the mixture was poured into ethyl acetate (200 ml) and washed with 1 M hydrochloric acid (100 ml). The organic layer was dried over anhydrous sodium sulfate and evaporated to dryness. The residue was then purified by silica gel chromatography using 50-60% ethyl acetate in hexanes to yield (±)-trans-7-[4-(1H-indol-3-yl)-2,5-dioxo-pyrrolidin-3-yl]-3,4-dihydro-1H-[1,4]diazepino[6,7,1-hi]indole-2-carboxylic acid benzyl ester as an off white solid (205 mg). 1H NMR (DMSO-d6) 400 MHz δ: 11.56(s, 1H), 11.03(d, 1H, J=2 Hz), 7.21-7.43(m, 10H), 7.09(t, 1H, J=7.2 Hz), 6.92-7.00(m, 2H), 6.82-6.89(m, 3H), 5.04(s, 2H), 4.87(d, 2H, J=7.6 Hz), 4.54(dd, 2H, J=7.6 and 28.8 Hz), 4.30(m, 2H), 3.92(m, 2H).

reactant | Magnesium | 8.0 mmol, 195 mg | [Mg] | Mg
reactant | 7-[4-(1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3-yl]-3,4-dihydro-1H-[1,4]diazepino[6,7,1-hi]indole-2-carboxylic acid benzyl ester | 0.44 mmol, 230 mg | C(C1=CC=CC=C1)OC(=O)C1CN2C=CC3=C(C=CC(=C23)CN1)C=1C(NC(C1C1=CNC2=CC=CC=C12)=O)=O | C31H24N4O4
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 20 ml | CO | CH4O
product | (±)-trans-7-[4-(1H-indol-3-yl)-2,5-dioxo-pyrrolidin-3-yl]-3,4-dihydro-1H-[1,4]diazepino[6,7,1-hi]indole-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1CN2C=CC3=C(C=CC(=C23)CN1)[C@@H]1C(NC([C@H]1C1=CNC2=CC=CC=C12)=O)=O | C31H26N4O4
